US07858640B2
[3-(4-chloro-2-fluorobenzyl)-4-difluoromethoxy-2-ethyl-8-fluoroquinolin-5-yloxy]acetic Acid
A mixture of [3-(4-chloro-2-fluorobenzyl)-4-difluoromethoxy-2-ethyl-8-fluoroquinolin-5-yloxy]acetic acid methyl ester (0.071 g), tetrahydrofuran (5.0 mL) and 1.0 M aqueous lithium hydroxide solution (0.30 mL) was stirred at room temperature for 2 hour. The solvent was removed under reduced pressure and the residue was diluted with water. The pH of mixture was adjusted to 4 by the addition of sodium dihydrogenphosphate and extracted with ethyl acetate. The combined extracts were dried over magnesium sulfate and the solvent removed under reduced pressure to afford title compound, 0.064 g.

reactant | [3-(4-chloro-2-fluorobenzyl)-4-difluoromethoxy-2-ethyl-8-fluoroquinolin-5-yloxy]acetic acid methyl ester | 0.071 g | COC(COC1=C2C(=C(C(=NC2=C(C=C1)F)CC)CC1=C(C=C(C=C1)Cl)F)OC(F)F)=O | C22H18ClF4NO4
reactant | lithium hydroxide | 1.0 M, 0.30 mL | [OH-].[Li+]
solvent | tetrahydrofuran | 5.0 mL | O1CCCC1 | C4H8O
product | [3-(4-chloro-2-fluorobenzyl)-4-difluoromethoxy-2-ethyl-8-fluoroquinolin-5-yloxy]acetic Acid | ClC1=CC(=C(CC=2C(=NC3=C(C=CC(=C3C2OC(F)F)OCC(=O)O)F)CC)C=C1)F | C21H16ClF4NO4
